US07018988B2
(2S,4EZ)-4-[(allyloxy)imino]-1-(4-cyanobenzoyl)-N-(2-methoxyethyl)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-4-[(allyloxy)imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid, 4-cyanobenzoyl chloride, and 2-methoxyethylamine the title compound was obtained in 44% purity by LC/MS. MS(ESI+): m/z=371.0.

reactant | (2S,4EZ)-4-[(allyloxy)imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid | C(C=C)ON=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C13H20N2O5
reactant | 4-cyanobenzoyl chloride | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
reactant | 2-methoxyethylamine | COCCN | C3H9NO
product | (2S,4EZ)-4-[(allyloxy)imino]-1-(4-cyanobenzoyl)-N-(2-methoxyethyl)-2-pyrrolidinecarboxamide | C(C=C)ON=C1C[C@H](N(C1)C(C1=CC=C(C=C1)C#N)=O)C(=O)NCCOC | C19H22N4O4
